US07737163B2
Step 1. tert-Butyl 4-({[(3-isopropyl-2-oxo-2,3-dihydro-1H -benzimidazol-1-yl)carbonyl]amino}methyl)piperidine-1-carboxylate
To a stirred solution of 1-isopropyl-1,3-dihydro-2H-benzimidazol-2one (J. Med. Chem. 1999, 42, 2870-2880) (3.00 g, 17.02 mmol) and triethylamine (7.12 ml, 51.06 mmol) in 70 ml tetrahydrofuran was added triphosgene (5.15 g, 17.02 mmol) in 14 ml tetrahydrofuran at room temperature. The reaction mixture was refluxed for 19 hours. The mixture was then cooled to room temperature, tert-butyl 4-(aminomethyl)piperidine-1-carboxylate (J. Prugh, L. A. Birchenough and M. S. Egbertson, Synth. Commun., 1992, 22, 2357-60) (3.28 g, 15.32 mmol) in 10 ml tetrahydrofuran was added. The reaction mixture was refluxed for another 24 hours. Then cooled and basified with aqueous saturated NaHCO3 50 ml, and extracted with ethyl acetate 100 ml for three times. The combined extract was washed with brine, dried over MgSO4 and concentrated. Flash chromatography of the residue (elutent: hexane/ethyl acetate=5/1 to 1/2) afforded a colorless oil 3.99 g (62%) as the titled compound.

reactant | 1-isopropyl-1,3-dihydro-2H-benzimidazol-2one | 17.02 mmol, 3.00 g | C(C)(C)N1C(NC2=C1C=CC=C2)=O | C10H12N2O
reactant | triethylamine | 51.06 mmol, 7.12 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 17.02 mmol, 5.15 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | tert-butyl 4-(aminomethyl)piperidine-1-carboxylate | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-Butyl 4-({[(3-isopropyl-2-oxo-2,3-dihydro-1H -benzimidazol-1-yl)carbonyl]amino}methyl)piperidine-1-carboxylate | 3.99 g, 62% | C(C)(C)N1C(N(C2=C1C=CC=C2)C(=O)NCC2CCN(CC2)C(=O)OC(C)(C)C)=O | C22H32N4O4
